US08349840B2
4-Chloroquinoline (230 mg, 1.58 mmol), 3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propan-1-ol (310 mg, 1.05 mmol), and potassium carbonate (220 mg, 1.6 mmol) were added to dimethylformamide (10 ml), followed by stirring at 80° C. for 5 hours. The reaction mixture was cooled to room temperature, then water was added thereto and the reaction mixture was extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure after filtration. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=4:1), and concentrated under reduced pressure. The resulting residue was dissolved in ethanol (3 ml), and 1N—HCl-ethanol solution (1 ml) was added thereto. Insoluble matters produced were filtered out and dried to obtain 4-[(3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]quinoline hydrochloride (360 mg, yield: 78%) as light yellow powder.

reactant | 4-Chloroquinoline | 1.58 mmol, 230 mg | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propan-1-ol | 1.05 mmol, 310 mg | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCO | C15H20N2OS
reactant | potassium carbonate | 1.6 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]quinoline hydrochloride | 360 mg, yield: 78% | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=NC1=CC=CC=C1C=C2 | InChI=1S/C24H25N3OS.ClH/c1-2-6-21-19(5-1)9-10-24(25-21)28-17-4-12-26-13-15-27(16-14-26)22-7-3-8-23-20(22)11-18-29-23;/h1-3,5-11,18H,4,12-17H2;1H
